US07807709B2
N-Isopropyl-4-methoxy-3-(3-methoxy-propoxy)-N-((3S*,4S*)-4-piperidin-1-ylmethyl-pyrrolidin-3-ylmethyl)-benzamide
The title compound is prepared analogously as described in Example 5 from (3S*,4R*)-3-formyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester and piperidine. MS (LC-MS): 462.1 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 3.74 min.

reactant | (3S*,4R*)-3-formyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C=O | C26H40N2O7
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | N-Isopropyl-4-methoxy-3-(3-methoxy-propoxy)-N-((3S*,4S*)-4-piperidin-1-ylmethyl-pyrrolidin-3-ylmethyl)-benzamide | C(C)(C)N(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C[C@@H]1CNC[C@H]1CN1CCCCC1 | C26H43N3O4
